US08124606B2
To tert-butyl 4-(4-(cyclopropylcarbamoyl)-2-methylphenyl)piperazine-1-carboxylate (1.490 g, 4.15 mmol) was added Hydrochloric acid solution (8.72 mL, 34.9 mmol) in dioxane at 23° C. The reaction was stirred at 23° C. for 30 min. The resulting suspension was diluted with Et2O (10 mL), filtered, rinsed with Et2O (3×5 mL), and the resulting solid was dried in vacuo to provide N-cyclopropyl-3-methyl-4-(piperazin-1-yl)benzamide dihydrochloride (1.37 g, 4.15 mmol, 100% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.51-0.61 (m, 2H) 0.61-0.70 (m, 2H) 2.28 (s, 3H) 2.82 (tq, J=7.41, 3.99 Hz, 1H) 3.02-3.13 (m, 4H) 3.14-3.29 (m, 4H) 7.05 (d, J=8.34 Hz, 1H) 7.62-7.69 (m, 2H) 8.32 (d, J=4.29 Hz, 1H) 9.38 (br. s., 2H). ESI-MS: m/z 260.2 (M+H)+. mp=171.5-172.8° C.

reactant | tert-butyl 4-(4-(cyclopropylcarbamoyl)-2-methylphenyl)piperazine-1-carboxylate | 4.15 mmol, 1.490 g | C1(CC1)NC(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H29N3O3
reactant | Hydrochloric acid | 34.9 mmol, 8.72 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | N-cyclopropyl-3-methyl-4-(piperazin-1-yl)benzamide dihydrochloride | 4.15 mmol, 1.37 g, 100% yield | Cl.Cl.C1(CC1)NC(C1=CC(=C(C=C1)N1CCNCC1)C)=O | InChI=1S/C15H21N3O.2ClH/c1-11-10-12(15(19)17-13-3-4-13)2-5-14(11)18-8-6-16-7-9-18;;/h2,5,10,13,16H,3-4,6-9H2,1H3,(H,17,19);2*1H
